US06022988
Preparation of Isophorone Nitrile (IPN)
622 g (4.5 mol) of isophorone and 1.8 g (12.9 mmol) of 1,3-dimethylimidazolium-4-carboxylate were placed in a reaction vessel and a mixture of 207.3 g (1.5 mol) of isophorone and 81.0 g (3 mol) of hydrogen cyanide was added at 150° C. over a period of about 60 minutes. The mixture was subsequently stirred further for about 60 minutes at 150° C. After cooling, the HCN concentration was determined by titration. No free hydrocyanic acid could be detected (HCN conversion>99.9%). After addition of 2.0 g of 85% strength H3PO4, the reaction product was distilled at 0.1 hPa. This gave 486 g of 3-cyano-3,5,5-trimethylcyclohexanone (98.1% based on HCN used). The amount of distillation residue was only 3% by weight, based on isophorone used.

reactant | isophorone | 4.5 mol, 622 g | O=C1C=C(CC(C)(C)C1)C | C9H14O
reactant | 1,3-dimethylimidazolium-4-carboxylate | 12.9 mmol, 1.8 g | C[N+]1=CN(C(=C1)C(=O)[O-])C | C6H8N2O2
reactant | isophorone | 1.5 mol, 207.3 g | O=C1C=C(CC(C)(C)C1)C | C9H14O
reactant | hydrogen cyanide | 3 mol, 81.0 g | C#N | CHN
product | Isophorone Nitrile | CC1(CC(=O)CC(C1)(C)C#N)C | C10H15NO
